US05405851
A solution of diethyl (S)-2-(2,3-dihydro-6-nitro-3-oxo-1,2-benzisothiazol-2-yl)glutarate (4.0 g, 10 mmol) and suspended iron (1.0 g, 18 mmol) in acetic acid (100 ml) was stirred under nitrogen for 1 hour at 55° C. Additional iron (3×0.25 g, 13 mmol) was added at intervals of 1, 1.25, and 1.75 hours. The reaction mixture was stirred 30 minutes after the last addition, filtered, concentrated in vacuo, and the residue absorbed onto silica gel (20 g) from a methylene chloride solution. Purification by chromatography on silica gel (150 g) eluting with ethyl acetate:hexane (1:1→2:1) gave diethyl (S)-2-(6-amino-2,3-dihydro-3-oxo-1,2-benzisothiazol-2-yl)glutarate (3.3 g) as an oil. 1H NMR (DMSO-d6, 300 MHz) δ: 1.15 (t, J=7 Hz, 3H, ester CH3), 1.17 (t, J=7 Hz, 3H, ester CH3 ), 1.95-2.38 (m, 4H, glu CH2CH2), 4.02 (q, J=7 Hz, 2H, ester CH2), 4.13 (q, J=7 Hz, 2H, ester CH2), 5.08-5.15 (m, 1H, glu CH), 6.09 (br s, 2H, NH2), 6.62 (dd, J=9,2 Hz, 1H, Ar), 6.84 (d, J=2 Hz, 1H, Ar), 7.50 (d, J=9 Hz, 1H, Ar). Mass spectrum (CI-CH4): 353 (M+1, 100%). Anal. Calculated for C16H20N2O5S: C, 54.53; H, 5.72; N, 7.95; S, 9.10. Found: C, 54.34; H, 5.73; N, 7.87; S, 9.00.

reactant | diethyl (S)-2-(2,3-dihydro-6-nitro-3-oxo-1,2-benzisothiazol-2-yl)glutarate | 10 mmol, 4.0 g | [N+](=O)([O-])C1=CC2=C(C(N(S2)[C@H](C(=O)OCC)CCC(=O)OCC)=O)C=C1 | C16H18N2O7S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 18 mmol, 1.0 g | [Fe] | Fe
catalyst | iron | 13 mmol, 0.25 g | [Fe] | Fe
product | diethyl (S)-2-(6-amino-2,3-dihydro-3-oxo-1,2-benzisothiazol-2-yl)glutarate | 3.3 g | NC1=CC2=C(C(N(S2)[C@H](C(=O)OCC)CCC(=O)OCC)=O)C=C1 | C16H20N2O5S
